US05486466
Methyl (4R, 7S)-7-amino-14-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-12-methoxy-6,10-dioxo-9,2,5-benzoxathiaazacyciododecine-4-carboxylate was acylated with allylacetic acid in an analogues manner as described in Example 122 and the protection groups were subsequently cleaved off using the procedure described in Example 13 to yield methyl (4R,7S)-7-(pent-4-enoylamino)-1,3,4,5,6,7,8,10-octahydro-14-hydroxy-12-methoxy-6,10-dioxo-9,2,5-benzooxathiaazacyclododecine-4-carboxylate as a white solid.

reactant | Methyl (4R, 7S)-7-amino-14-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-12-methoxy-6,10-dioxo-9,2,5-benzoxathiaazacyciododecine-4-carboxylate | N[C@@H]1C(N[C@@H](CSCC2=C(C(OC1)=O)C=C(C=C2O[Si](C)(C)C(C)(C)C)OC)C(=O)OC)=O | C22H34N2O7SSi
reactant | allylacetic acid | C(C=C)CC(=O)O | C5H8O2
product | methyl (4R,7S)-7-(pent-4-enoylamino)-1,3,4,5,6,7,8,10-octahydro-14-hydroxy-12-methoxy-6,10-dioxo-9,2,5-benzooxathiaazacyclododecine-4-carboxylate | C(CCC=C)(=O)N[C@@H]1C(N[C@@H](CSCC2=C(C(OC1)=O)C=C(C=C2O)OC)C(=O)OC)=O | C21H26N2O8S
